US04242510
EXAMPLE 8: 7-[2-(4-Formyl-2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer)
2-(4-Formyl-(2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetic acid (syn isomer, 2.3 g.) was allowed to react with 7-amino-3-(1-methyl-1 H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (3.3 g.) in a similar manner to that of Example 1 to give the captioned compound (2.5 g.), pale yellow powder, mp. 150° to 155° C. (dec.).

reactant | 4-Formyl-(2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetic acid | 2.3 g | C(=O)N1CCSC=C1C(C(=O)O)=NOC | C8H10N2O4S
reactant | 7-amino-3-(1-methyl-1 H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.3 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
product | 7-[2-(4-Formyl-2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | C(=O)N1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOC | C18H20N8O6S3
